US08008505B2
4.2 2-Cyclohexyl-3-oxo-3-(2-oxo-cyclohexyl)-propionic acid ethyl ester
To a −78° C. cold solution of LDA (2 M solution in heptane/ethylbenzene/THF, 1.8 ml, 3.66 mmol) in THF (16.8 ml) under an argon atmosphere was added a solution of cyclohexanone (380 μl, 3.66 mmol; CAS Reg. No. 108-94-1) in THF (12.6 ml) within 10 min. The mixture was stirred for 1 h at −78° C. A solution of 3-benzotriazol-1-yl-2-cyclohexyl-3-oxo-propionic acid ethyl ester (1.05 g, 3.33 mmol) in THF (11.1 ml) was added and the solution was stirred at ambient temperature for 14 h. Ice water was added, the mixture was poured onto ice water/brine 1/1 and extracted two times with TBME. The combined extracts were washed with ice water/brine 1/1 and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give a yellow oil which was purified by column chromatography (silica gel, iPrOAc/heptane) to give the title compound (209 mg, 0.71 mmol; 21%) as yellow oil. MS: m/e=295.2 [M+H+].

reactant | LDA | 3.66 mmol, 2 M, 1.8 ml | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 3-benzotriazol-1-yl-2-cyclohexyl-3-oxo-propionic acid ethyl ester | 3.33 mmol, 1.05 g | C(C)OC(C(C(=O)N1N=NC2=C1C=CC=C2)C2CCCCC2)=O | C17H21N3O3
solvent | THF | 16.8 ml | C1CCOC1 | C4H8O
solvent | THF | 12.6 ml | C1CCOC1 | C4H8O
solvent | THF | 11.1 ml | C1CCOC1 | C4H8O
product | 2-Cyclohexyl-3-oxo-3-(2-oxo-cyclohexyl)-propionic acid ethyl ester | 0.71 mmol, 209 mg, 21% | C(C)OC(C(C(C1C(CCCC1)=O)=O)C1CCCCC1)=O | C17H26O4
